US09402841B2
Step A: (S)-tert-butyl 3-((8-chloro-3-cyanoisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate
To a suspension of 1,8-dichloroisoquinoline-3-carbonitrile (0.3 g, 1.35 mmol) and Et3N (0.27 g, 2.7 mmol) in NMP (5 mL) was added (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate (0.3 g, 1.62 mmol) at RT. The resulting mixture was stirred at 160° C. for 30 minutes in a microwave reactor. The reaction was subsequently quenched with water and the mixture was extracted with EtOAc (3×30 mL). The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by column chromatography eluting with ethyl acetate and petroleum ether (EtOAc/PE=1:10-1:2 gradient) on silica gel to give the title compound (0.45 g, 85%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.92-7.90 (d, J=8.0 Hz, 1H), 7.85-7.83 (m, 2H), 7.79-7.77 (d, J=8.0 Hz, 1H), 7.63 (s, 1H), 4.66-4.58 (m, 1H), 3.75-3.72 (t, J=8.0 Hz, 3H), 3.52-3.35 (m, 3H), 2.31-2.30 (br s, 1H), 2.11-2.07 (br s, 1H), 1.47-1.45 (s, 9H).

reactant | 1,8-dichloroisoquinoline-3-carbonitrile | 1.35 mmol, 0.3 g | ClC1=NC(=CC2=CC=CC(=C12)Cl)C#N | C10H4Cl2N2
reactant | Et3N | 2.7 mmol, 0.27 g | CCN(CC)CC | C6H15N
reactant | (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate | 1.62 mmol, 0.3 g | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | (S)-tert-butyl 3-((8-chloro-3-cyanoisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 0.45 g, 85% | ClC=1C=CC=C2C=C(N=C(C12)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C#N | C19H21ClN4O2
